US07618975B2
(2-Chloro-9H-purin-6-yl)-(4-methoxy-phenyl)-methyl-amine
The title compound was prepared from 2,6-dichloro-9H-purine (50 mg, 0.265) and 4-methoxy-N-methylaniline (40 mg, 0.291 mmol) by a procedure similar to example 1b and was isolated as off white powder (10 mg, 20%). 1H NMR (CDCl3): 7.81 (s, 1H), 7.37 (d, J=8.4 Hz, 2H), 7.04 (d, J=8.4 Hz, 2H), 3.93 (s, 3H), 3.77 (s, 3H).

reactant | 2,6-dichloro-9H-purine | 50 mg | ClC1=NC(=C2N=CNC2=N1)Cl | C5H2Cl2N4
reactant | 4-methoxy-N-methylaniline | 0.291 mmol, 40 mg | COC1=CC=C(NC)C=C1 | C8H11NO
product | (2-Chloro-9H-purin-6-yl)-(4-methoxy-phenyl)-methyl-amine | ClC1=NC(=C2N=CNC2=N1)N(C)C1=CC=C(C=C1)OC | C13H12ClN5O
